US06562849B1
1-(Adamant-1-yl)-3-(3-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)urea (exemplification compound number 2-8)
A mixture of 5-[4-[6-(3-aminophenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride (400 mg), 1-adamantyl isocyanate (142 mg), triethylamine (153 mg) and anhydrous N,N-dimethylformamide (4 ml) was stirred at room temperature for 3 hours. The reaction mixture was concentrated and partitioned between ethyl acetate and water. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then concentrated. The residue was chromatographed on a silica gel column using ethyl acetate:n-hexane=3:1→4:1→ethyl acetate as the eluant. The product insoluble in methanol was isolated by filtration and further purified by preparative reverse phase high performance liquid chromatography using acetonitrile:water=50:50→60:40→65:35→70:30 as the eluant to afford the title compound (66 mg, mp 227.1-231.4° C.).

reactant | 5-[4-[6-(3-aminophenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride | 400 mg | Cl.Cl.NC=1C=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=CC1
reactant | 1-adamantyl isocyanate | 142 mg | C12(CC3CC(CC(C1)C3)C2)N=C=O | C11H15NO
reactant | triethylamine | 153 mg | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 1-(Adamant-1-yl)-3-(3-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)urea | 66 mg | C12(CC3CC(CC(C1)C3)C2)NC(=O)NC2=CC(=CC=C2)OC=2C=CC3=C(N(C(=N3)COC3=CC=C(C=C3)CC3C(NC(S3)=O)=O)C)C2 | C36H37N5O5S
